US07968720B2
(2-Chloro-5-hydroxymethyl-benzyl)-cyclopropyl-carbamic Acid tert-butyl Ester
NaBH4 (1.48 g, 37.7 mmol) was added to a sol. of (2-chloro-5-formyl-benzyl)-cyclopropyl-carbamic acid tert-butyl ester (11.7 g, 37.7 mmol) in CH3CN (113 mL) under N2. The mixture was stirred at rt for 1 h, and water (113 mL) was added. The mixture was stirred at rt for 5 min, and extracted with CH2Cl2 (3×). The combined org. layers were dried over MgSO4, filtered, and the solvents were removed under reduced pressure. Purification of the crude by FC (heptane/EtOAc 7:3) yielded the title compound (6.53 g, 56%). LC-MS: tR=0.96 min; ES+: 297.37.

reactant | NaBH4 | 37.7 mmol, 1.48 g | [BH4-].[Na+]
reactant | (2-chloro-5-formyl-benzyl)-cyclopropyl-carbamic acid tert-butyl ester | 37.7 mmol, 11.7 g | C(C)(C)(C)OC(N(C1CC1)CC1=C(C=CC(=C1)C=O)Cl)=O | C16H20ClNO3
reactant | water | 113 mL | O | H2O
solvent | CH3CN | 113 mL | CC#N | C2H3N
product | (2-Chloro-5-hydroxymethyl-benzyl)-cyclopropyl-carbamic Acid tert-butyl Ester | 6.53 g, 56% | C(C)(C)(C)OC(N(C1CC1)CC1=C(C=CC(=C1)CO)Cl)=O | C16H22ClNO3
